* Z:\home\lu\source\Projects\LightTable\CircuitSimulationSmallTest.asc
RREF N052 N063 {rset}
D2 N043 N053 HVLED
D3 N033 N043 HVLED
D6 N044 N054 LVLED
D1 N034 N044 LVLED
D4 N024 N034 LVLED
D5 N023 N033 HVLED
V1 N062 0 24
QREF N063 N073 0 0 TLED
Q1 N064 N073 0 0 TLED
Q2 N065 N073 0 0 TLED
QCTRL N001 N063 N073 0 TCTRL
D7 N042 N052 REFLED
D8 N032 N042 REFLED
D9 N022 N032 REFLED
D10 N045 N055 AOT-2015
D11 N035 N045 MEANLED
D12 N025 N035 MEANLED
Q3 N066 N073 0 0 TLED
D13 N046 N056 AOT-2015
D14 N036 N046 MEANLED
D15 N026 N036 MEANLED
Q4 N067 N073 0 0 TLED
RLED1 N053 N064 {rled}
RLED2 N054 N065 {rled}
RLED3 N055 N066 {rled}
RLED4 N056 N067 {rled}
D16 N016 N026 AOT-2015
D17 N006 N016 MEANLED
D18 N001 N006 MEANLED
D19 N015 N025 AOT-2015
D20 N005 N015 MEANLED
D21 N001 N005 MEANLED
D22 N014 N024 LVLED
D23 N004 N014 LVLED
D24 N001 N004 LVLED
D25 N013 N023 HVLED
D26 N003 N013 HVLED
D27 N001 N003 HVLED
D28 N012 N022 REFLED
D29 N002 N012 REFLED
D30 N001 N002 REFLED
D31 N047 N057 AOT-2015
D32 N037 N047 AOT-2015
D33 N048 N058 AOT-2015
D34 N038 N048 MEANLED
D35 N028 N038 MEANLED
D36 N027 N037 MEANLED
Q5 N068 N073 0 0 TLED
Q6 N069 N073 0 0 TLED
D37 N049 N059 AOT-2015
D38 N039 N049 MEANLED
D39 N029 N039 MEANLED
Q7 N070 N073 0 0 TLED
D40 N050 N060 AOT-2015
D41 N040 N050 MEANLED
D42 N030 N040 MEANLED
Q8 N071 N073 0 0 TLED
RLED5 N057 N068 {rled}
RLED6 N058 N069 {rled}
RLED7 N059 N070 {rled}
RLED8 N060 N071 {rled}
D43 N020 N030 AOT-2015
D44 N010 N020 MEANLED
D45 N001 N010 MEANLED
D46 N019 N029 AOT-2015
D47 N009 N019 MEANLED
D48 N001 N009 MEANLED
D49 N018 N028 AOT-2015
D50 N008 N018 MEANLED
D51 N001 N008 MEANLED
D52 N017 N027 AOT-2015
D53 N007 N017 MEANLED
D54 N001 N007 MEANLED
D55 N051 N061 AOT-2015
D56 N041 N051 MEANLED
D57 N031 N041 MEANLED
Q9 N072 N073 0 0 TLED
RLED9 N061 N072 {rled}
D58 N021 N031 AOT-2015
D59 N011 N021 MEANLED
D60 N001 N011 MEANLED
RTOT N001 N062 0.0001
.model D D
.lib C:\users\lu\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\lu\Local Settings\Application Data\LTspice\lib\cmp\standard.bjt
.MODEL TCTRL AKO: 2N2222 (Bf={tgain})
.MODEL MEANLED AKO: AOT-2015 (N=6.4)
.MODEL TLED AKO: 2N2222 (Bf={tgain})
* .param rled=rset+rledvar rset=15 vref=6.4 rledvar=rset/4 tgain=500 vdev=0.1
.MODEL REFLED AKO: AOT-2015 (N={vref})
.MODEL HVLED AKO: AOT-2015 (N={6.4+vdev})
.MODEL LVLED AKO: AOT-2015 (N={6.4-vdev})
.step param rset 15 40 1
.op V1 24
* .step param vref 6.2 6.6 0.02
* .step param rledvar 5 0 -1
* .step oct param tgain 130 500 4
* .step param vdev 0 0.4 0.1
.param rled=20 rset=15 vref=6.4 rledvar=rset/4 tgain=250 vdev=0.1
* rset = 18 ; rled = 20 ; assuming voltagedrop deviation +-0.6 per strand (3.15<Vdrop<3.25)
.backanno
.end
